US09193692B2
A. tert-Butyl 1-(3,5-dibromopyrazin-2-ylcarbamoyl)cyclopropyl-carbamate
1,1′-Carbonyldiimidazole (4.37 g, 27.0 mmol) was added to a stirred solution of 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid (4.93 g, 24.50 mmol) in N,N-dimethylformamide (6 mL) and dichloromethane (12 mL) at room temperature. The resulting clear yellow mixture was stirred at room temperature under nitrogen for 4 h. N,N-Diisopropylethylamine (8.54 mL, 49.0 mmol) was added followed by 3,5-dibromopyrazin-2-amine (9.29 g, 36.8 mmol). The resulting mixture was heated at 50° C. under a reflux condenser under nitrogen for 60 h. The resulting mixture was diluted with ethyl acetate and washed with water. The layers were separated and the organic layer washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was taken up in dichloromethane and purified using flash chromatography (Biotage) (5-60% ethyl acetate in hexane). Fractions containing the desired product were combined and concentrated under reduced pressure. The residue was triturated with 15% ethyl acetate in hexane and dried under high vacuum to give the desired product (5.349 g, 12.27 mmol, 50% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm) 9.92 (br. s., 1H), 8.76 (s, 1H), 7.70 (br. s., 1H), 1.41 (s, 9H), 1.34-1.40 (m, 2H), 1.02-1.09 (m, 2H); MS (ESI) m/z 437.3 [M+1]+, 459.1 [M+Na]+.

reactant | 1,1′-Carbonyldiimidazole | 27.0 mmol, 4.37 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(tert-butoxycarbonylamino)cyclopropanecarboxylic acid | 24.50 mmol, 4.93 g | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
reactant | N,N-Diisopropylethylamine | 49.0 mmol, 8.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,5-dibromopyrazin-2-amine | 36.8 mmol, 9.29 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 1-(3,5-dibromopyrazin-2-ylcarbamoyl)cyclopropyl-carbamate | 12.27 mmol, 5.349 g, 50% yield | BrC=1C(=NC=C(N1)Br)NC(=O)C1(CC1)NC(OC(C)(C)C)=O | C13H16Br2N4O3
